US09353107B2
To a stirred solution of 3-bromo aniline (6 g, 34.87 mmol) in dry DCM (200 ml) at 10° C. was added pyridine (4.13 mg, 52.31 mmol) followed by methane sulfonyl chloride (5.194 g, 45.34 mmol) and stirred at RT for 15 h. The reaction was monitored by TLC (35% Ethyl acetate in hexane). The reaction mixture was diluted with DCM (50 ml) and washed with 1N HCl (25 ml). The organic layer was dried over Na2SO4, and concentrated under reduced pressure to afford 8.45 g (96.3% yield) of N-(3-bromophenyl) methanesulfonamide. 1H NMR (DMSO-d6, 300 MHz): δ 10.01 (s, 1H), 7.368 (s, 1H), 7.365-7.19 (m, 3H), 3.03 (s, 1H). MS: m/z=251.8 (M+1).

reactant | 3-bromo aniline | 34.87 mmol, 6 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | pyridine | 52.31 mmol, 4.13 mg | N1=CC=CC=C1 | C5H5N
reactant | methane sulfonyl chloride | 45.34 mmol, 5.194 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(3-bromophenyl) methanesulfonamide | 8.45 g, 96.3% yield | BrC=1C=C(C=CC1)NS(=O)(=O)C | C7H8BrNO2S
